US04803077
Powder containing eicosapentaenoic acid
Four parts of gamma-cyclodextrin powder was dissolved in 100 parts of an aqueous maltose solution, maltose content of 96.5%, d.s.b., moisture content of 18%, and the solution was mixed with 4 parts of eicosapentaenoic triglyceride and a beta-maltose hydrate seed. The mixture was crystallized, solidified, aged, pulverized and dehydrated by the method in Example 3.

reactant | gamma-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
solvent | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
product | eicosapentaenoic acid | CC/C=C\C/C=C\C/C=C\C/C=C\C/C=C\CCCC(=O)O | C20H30O2
